US08754226B2
To a solution of (S)-4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid (0.040 g, 0.080 mmol) and pyrrolidine (0.028 g, 0.40 mmol) in DMF (1 mL) was added HTBU (0.060 g, 0.16 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was diluted with EtOAc (20 mL) and washed with 1 N HCl (5 mL), 1 N NaOH (5 mL), and brine (5 mL), and the combined organic phases were dried over MgSO4, and concentrated under vacuum. The material was purified on silica, using EtOAc as eluent to yield (S)-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(pyrrolidine-1-carbonyl)phenoxy)pyrrolidin-2-one (0.0026 g, 0.005 mmol, 6% yield). Mass spectrum (apci) m/z=555.0 (M+H).

reactant | (S)-4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid | 0.080 mmol, 0.040 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)O)C=C1)F)=O | C22H20ClF4N3O4
reactant | pyrrolidine | 0.40 mmol, 0.028 g | N1CCCC1 | C4H9N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(pyrrolidine-1-carbonyl)phenoxy)pyrrolidin-2-one | 0.005 mmol, 0.0026 g, 6% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C=C1)C(=O)N1CCCC1)F)=O | C26H27ClF4N4O3
